US06313312B1
N-[3-(3-Hexyl-6-methyl-3-azabicyclo[3.1.0]hex-6-yl)phenyl]-1-propanesulfonamide
To a solution of 3-(3-hexyl-6-methyl-3-azabicyclo[3.1.0]hex-6-yl)phenylamine (Preparation 12, 200 mg, 0.735 mmol), in dichloromethane (5 ml) at room temperature was added pyridine (0.15 ml, 1.84 mmol) then dropwise over 5 minutes propane-sulfonylchloride (0.16 ml, 202 mg, 1.42 mmol). The mixture was stirred for 48 hours, concentrated in vacuo and the residue was purified by silica (10 g) column chromatography eluting with ethyl acetate then 90:10:1 ethyl acetate:methanol:ammonia solution (0.880). Product-containing fractions were combined and concentrated in vacuo to give the title compound as a pale yellow oil (40 mg, 14%).

reactant | 3-(3-hexyl-6-methyl-3-azabicyclo[3.1.0]hex-6-yl)phenylamine | 0.735 mmol, 200 mg | C(CCCCC)N1CC2C(C2C1)(C)C=1C=C(C=CC1)N | C18H28N2
reactant | pyridine | 1.84 mmol, 0.15 ml | N1=CC=CC=C1 | C5H5N
reactant | propane-sulfonylchloride | 1.42 mmol, 0.16 ml, 202 mg | C(CC)S(=O)(=O)Cl | C3H7ClO2S
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | N-[3-(3-Hexyl-6-methyl-3-azabicyclo[3.1.0]hex-6-yl)phenyl]-1-propanesulfonamide | 40 mg, 14% | C(CCCCC)N1CC2C(C2C1)(C)C=1C=C(C=CC1)NS(=O)(=O)CCC | C21H34N2O2S
